data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.202200421.json
{"doi": "10.1002_adsc.202200421", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical oxidation-induced oxyphosphorylation of alkenes and alkynes with water to give β-ketophosphonates via acetate-mediated HAT generation of P-radicals", "mechanism_family": ["mediator_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of acetate (nBu4NOAc) generates an acetoxyl radical mediator that abstracts H from P(O)–H; carbon radical intermediate is further anodically oxidized to a carbocation", "key_intermediates": [{"name": "acetoxyl radical (AcO•) from anodic oxidation of acetate", "smiles": "CC(=O)[O]", "role": "reactive"}, {"name": "phosphorus-centered radical (P•) from HAT on diarylphosphine oxide", "smiles": null, "role": "reactive"}, {"name": "β-phosphoryl carbon radical (C) from P• addition to alkene", "smiles": null, "role": "transient"}, {"name": "β-phosphoryl carbocation (D) from anodic oxidation of carbon radical", "smiles": null, "role": "reactive"}, {"name": "β-hydroxyphosphonate (E) from water attack on carbocation", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes acetate to AcO•, which abstracts H from Ar2P(O)H to give a P-centered radical; this P• adds to the alkene to form a β-phosphoryl C-radical, which is further oxidized at the anode to a carbocation, trapped by water, and oxidized to the ketone (β-ketophosphonate), with H2 evolved at the cathode.", "rate_determining_step": "Not P–H cleavage (KIE = 1.26); rate-limiting step likely occurs after HAT (e.g., radical addition or subsequent oxidation)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction suppressed; product not observed, indicating radical intermediates"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "BHT-P adduct 1e isolated in 61% yield, confirming P-radical intermediate"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Product 2e detected by HRMS; reaction suppressed, supporting radical pathway"}, {"name": "deuterated P(O)–H substrate 1b-d", "smiles": null, "purpose": "KIE", "observation": "KH/KD = 1.26 (parallel experiments); P–H cleavage not rate-limiting"}, {"name": "H2 18O", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "18O incorporated into β-ketophosphonate (2c'), confirming water as oxygen source (86% yield)"}, {"name": "isolated β-hydroxyphosphonate (D/E intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Subjected to standard conditions gave 2c in 75%, supporting path a (hydroxyl intermediate oxidized to ketone)"}, {"name": "β-acetoxyphosphonate (path b intermediate)", "smiles": null, "purpose": "intermediate_trap", "observation": "Under standard conditions + DTPB, no 2c formed; rules out path b via acetate adduct"}, {"name": "nBu4NOAc / 1b cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "1b not directly oxidized at anode; nBu4NOAc oxidizes more easily (Ep=2.35 V); new peaks upon mixing indicate electron transfer between them"}], "evidence_types_used": ["KIE", "H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "product_isotope_distribution", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Two pathways considered after carbocation D: (path a, favored) water nucleophilic attack to give β-hydroxyphosphonate E, then anodic oxidation to β-ketophosphonate; (path b, ruled out) acetate trapping of D to give β-acetoxyphosphonate F. Path b excluded by independent synthesis showing the acetoxy intermediate does not convert to product. 18O labeling confirms water (not acetate/O2) as the oxygen source."}
